US07435815B2
3-Methyl-pyridine-2-sulfonic acid (2-methoxy-phenyl)-amide
prepared by reaction of 2-methoxy-phenylamine with 3-methyl-pyridine-2-sulfonyl chloride

reactant | 2-methoxy-phenylamine | COC1=C(C=CC=C1)N | C7H9NO
reactant | 3-methyl-pyridine-2-sulfonyl chloride | CC=1C(=NC=CC1)S(=O)(=O)Cl | C6H6ClNO2S
product | 3-Methyl-pyridine-2-sulfonic acid (2-methoxy-phenyl)-amide | COC1=C(C=CC=C1)NS(=O)(=O)C1=NC=CC=C1C | C13H14N2O3S
